US08383642B2
[4-(Spiro[indane-1,4′-piperidine]-1′-ylmethyl)phenyl]methanol
To a stirred solution of 2,3-dihydrospiro[indene-1,4′-piperidine] (0.4 g, 1.78 mmol) in DMF (12 mL) is added Cs2CO3 (1.4 g, 4.4 mmol) and [4-(bromomethyl)phenyl]methanol (0.36 g, 1.78 mmol) and the reaction mixture is stirred overnight at room temperature. The reaction mixture is poured into cold water and extracted with EtOAc (3×50 mL). The combined organic layer is washed with brine solution, dried over Na2SO4, and concentrated under vacuum. The crude material is purified by silica gel chromatography (gradient DCM/MeOH 8/2) to give the title compound (0.6 g, 98%). ESI/MS m/z 308.40 (M+H)+.

reactant | 2,3-dihydrospiro[indene-1,4′-piperidine] | 1.78 mmol, 0.4 g | N1CCC2(CC1)CCC1=CC=CC=C12 | C13H17N
reactant | Cs2CO3 | 4.4 mmol, 1.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | [4-(bromomethyl)phenyl]methanol | 1.78 mmol, 0.36 g | BrCC1=CC=C(C=C1)CO | C8H9BrO
reactant | water | O | H2O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | [4-(Spiro[indane-1,4′-piperidine]-1′-ylmethyl)phenyl]methanol | 0.6 g, 98% | N1(CCC2(CC1)CCC1=CC=CC=C12)CC1=CC=C(C=C1)CO | C21H25NO
